US07713982B2
b) 8-chloro-1-methyl-3-pentyl-3,7-dihydro-1H-purine-2,6-dione
Tetrakis(triphenylphosphine)palladium (1.0, 0.90 mmol) was placed in a flask which was evacuated and then filled with nitrogen (x3). A solution of 8-chloro-1-methyl-3-pentyl-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione (2.78 g, 8.96 mmol) in 50 ml of THF was added and the flask evacuated once more and nitrogen introduced. DMSO (4.5 ml) and morpholine (7.8 ml, 89.6 mmol) was added and the solution stirred for 5 h. The solution was partitioned between ethyl acetate and 2N HCl solution and the organic fraction washed with brine, dried (MgSO4) and concentrated. The crude was purified with an aminopropyl SPE eluting with first methanol then methanol containing 0-15% acetic acid to provide the title compound as a white solid, 1.12 g, 46%. NMR δH (400 MHz, d6-DMSO) 0.86 (t, 3H, J=7 Hz), 1.21-1.35 (m, 4H), 1.59-1.68 (m, 2H), 3.22 (s, 3H), 3.91 (t, 2H, J=7.5 Hz), NH not observed; m/z 271 [MH+].

reactant | 8-chloro-1-methyl-3-pentyl-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione | 8.96 mmol, 2.78 g | ClC1=NC=2N(C(N(C(C2N1CC=C)=O)C)=O)CCCCC | C14H19ClN4O2
reactant | DMSO | 4.5 ml | CS(=O)C | C2H6OS
reactant | morpholine | 89.6 mmol, 7.8 ml | N1CCOCC1 | C4H9NO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | Tetrakis(triphenylphosphine)palladium | 0.90 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-chloro-1-methyl-3-pentyl-3,7-dihydro-1H-purine-2,6-dione | ClC1=NC=2N(C(N(C(C2N1)=O)C)=O)CCCCC | C11H15ClN4O2
